US04213985
Using the procedure of Example 2, 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one was reacted with 1-(2-methyl-allyl)-piperazine to obtain a 45% yield of 5,11-dihydro-11-{3-[4-(2-methyl-allyl)-1-piperazinyl]-propionyl}-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one melting at 210°-211° C. after crystallization from ethanol.

reactant | 11-(3-chloropropionyl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H12ClN3O2
reactant | 1-(2-methyl-allyl)-piperazine | CC(CN1CCNCC1)=C | C8H16N2
product | 5,11-dihydro-11-{3-[4-(2-methyl-allyl)-1-piperazinyl]-propionyl}-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | 45% yield | CC(CN1CCN(CC1)CCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)=C | C23H27N5O2
